US09403801B2
1-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)ethanone
To a solution of 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (150.3 mg, 0.3998 mmol) in dichloromethane (15 mL) were added acetyl acetate (81.5 mg, 0.798 mmol) and N,N-diethylethanamine (81.3 mg, 0.803 mmol). The mixture was stirred at room temperature for 2 h and concentrated in vacuo. The residue was purified by flash silica gel column chromatography (DCM/MeOH (v/v)=50/1 to 10/1) to give the product as a yellow solid (120.0 mg, 71.82%).

reactant | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.3998 mmol, 150.3 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNCC2)CC1 | C18H26ClN7
reactant | acetyl acetate | 0.798 mmol, 81.5 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | N,N-diethylethanamine | 0.803 mmol, 81.3 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)ethanone | 120.0 mg, 71.82% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(CC2)C(C)=O)CC1 | C20H28ClN7O
